US07235572B2
In analogy to the procedure described in example 27 c], 3-bromo-1-(tert-butyl-dimethyl-silanyl)-5-(tert-butyl-dimethyl-silanyloxy)-1H-indole was reacted with 1-iodomethane in the presence of tert-butyllithium to give 1-(tert-butyl-dimethyl-silanyl)-5-(tert-butyl-dimethyl-silanyloxy)-3-methyl-1H-indole as brown viscous oil.

reactant | 3-bromo-1-(tert-butyl-dimethyl-silanyl)-5-(tert-butyl-dimethyl-silanyloxy)-1H-indole | BrC1=CN(C2=CC=C(C=C12)O[Si](C)(C)C(C)(C)C)[Si](C)(C)C(C)(C)C | C20H34BrNOSi2
reactant | 1-iodomethane | IC | CH3I
reactant | tert-butyllithium | C(C)(C)(C)[Li]
product | 1-(tert-butyl-dimethyl-silanyl)-5-(tert-butyl-dimethyl-silanyloxy)-3-methyl-1H-indole | C(C)(C)(C)[Si](N1C=C(C2=CC(=CC=C12)O[Si](C)(C)C(C)(C)C)C)(C)C | C21H37NOSi2
